US08357679B2
B: 1-(Cyclopropylmethyl)-3-(4-(−4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-2,6-cis-dimethylpiperazine-1-carbonyl)phenyl)urea
2-(4-((-3,5-cis-Dimethylpiperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol (0.27 mmol, 0.1 g), 4-(3-(cyclopropylmethyl)ureido)benzoic acid (0.27 mmol, 0.063 g) and triethylamine (0.81 mmol, 0.113 mL, 0.082 g) were combined in dichloromethane and stirred at room temperature. 1-Propanephosphonic acid cyclic anhydride (0.405 mmol, 0.241 mL, 0.258 g; 50% solution in ethyl acetate) was added and the reaction allowed to stir for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution, dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by acidic preparative HPLC to afford the desired compound (3 mg). MS (ESI) m/z 587.3 [M+H]+

reactant | 2-(4-((-3,5-cis-Dimethylpiperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 0.27 mmol, 0.1 g | C[C@@H]1CN(C[C@@H](N1)C)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C16H20F6N2O
reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 0.27 mmol, 0.063 g | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | triethylamine | 0.81 mmol, 0.113 mL, 0.082 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.405 mmol, 0.241 mL, 0.258 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(−4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-2,6-cis-dimethylpiperazine-1-carbonyl)phenyl)urea | 3 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1[C@H](CN(C[C@H]1C)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C28H32F6N4O3
